US04400509
A mixture of 17.4 g (0.158 mole) of thiophenol, 135 mg (0.75 mmole) of saccharin and 24.7 ml (0.12 mole) of hexamethyldisilazane was refluxed for 2 hours and distillation yielded 23.9 g (83%) of trimethyl-(phenylthio)-silane with a boiling point of 88°-90° C. at 12 mm Hg and nD 25=1.5308.

reactant | thiophenol | 0.158 mole, 17.4 g | C1(=CC=CC=C1)S | C6H6S
reactant | hexamethyldisilazane | 0.12 mole, 24.7 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
catalyst | saccharin | 0.75 mmole, 135 mg | S1(=O)(=O)NC(=O)C2=CC=CC=C12 | C7H5NO3S
product | trimethyl-(phenylthio)-silane | 23.9 g, 83% | C[Si](SC1=CC=CC=C1)(C)C | C9H14SSi
